US05783522
3-Chloro-2-(4-chloro-3-dimethylaminothiocarbonyloxyphenyl)-5-trifluoromethylpyridine
A solution of 65.0 g of 3-chloro-2-(4-chloro-3-hydroxyphenyl)-5-trifluoromethylpyridine in 200 ml of dimethylformamide, and then 31.3 g of dimethylthiocarbamoyl chloride, were added dropwise to a suspension of 6.7 g of 80% sodium hydride in 300 ml of anhydrous dimethylformamide. The solution was stirred at 80° C. for one hour and then poured into 2.5 1 of 1% by weight sodium hydroxide solution. After extraction three times with 250 ml of tert-butyl methyl ether each time the combined organic phases were washed twice with 150 ml of water each time and then dried over sodium sulfate and concentrated until crystallization started. After removal of the crystals, the mother liquor was concentrated further until more of the product started to crystallized out.

reactant | 3-chloro-2-(4-chloro-3-hydroxyphenyl)-5-trifluoromethylpyridine | 65.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)O | C12H6Cl2F3NO
reactant | dimethylthiocarbamoyl chloride | 31.3 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | sodium hydride | 6.7 g | [H-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 3-Chloro-2-(4-chloro-3-dimethylaminothiocarbonyloxyphenyl)-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)Cl)OC(=S)N(C)C | C15H11Cl2F3N2OS
